US07335660B2
a) 2-((1S)-6-Bromo-3,4-dihydro-1H-2-benzopyran-1-yl)ethyl methanesulfonate
The title compound was prepared from 2-((1S)-6-bromo-3,4-dihydro-1H-2-benzopyran-1-yl)ethanol and methanesulfonyl chloride, as described for the preparation of 2-[(1S)-6-(aminocarbonyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl methanesulfonate.

reactant | 2-((1S)-6-bromo-3,4-dihydro-1H-2-benzopyran-1-yl)ethanol | BrC=1C=CC2=C(CCO[C@H]2CCO)C1 | C11H13BrO2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-[(1S)-6-(aminocarbonyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl methanesulfonate | CS(=O)(=O)OCC[C@@H]1OCCC2=C1C=CC(=C2)C(=O)N | C13H17NO5S
product | 2-((1S)-6-Bromo-3,4-dihydro-1H-2-benzopyran-1-yl)ethyl methanesulfonate | CS(=O)(=O)OCC[C@@H]1OCCC2=C1C=CC(=C2)Br | C12H15BrO4S
